US04684371
Five grams of 2,4-dinitrophenylacetic acid were dissolved in a solution of 1.9 gm of sodium hydrogen carbonate in 200 ml water and reduced with hydrogen in the presence of 0.3 gm of palladium on charcoal at room temperature. After completion of the uptake of hydrogen, the catalyst was filtered off, and the filtrate was evaporated in a rotary evaporator at a bath temperature of 30° C. maximum. An amount of 3.5 gm of 2,4-diaminophenylacetic acid sodium salt was obtained.

reactant | 2,4-dinitrophenylacetic acid | Five grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | hydrogen | [H][H] | H2
reactant | sodium hydrogen carbonate | 1.9 gm | C(O)([O-])=O.[Na+]
solvent | water | 200 ml | O | H2O
catalyst | palladium on charcoal | 0.3 gm | [Pd] | Pd
product | 2,4-diaminophenylacetic acid sodium salt | 3.5 gm | [Na+].NC1=C(C=CC(=C1)N)CC(=O)[O-] | InChI=1S/C8H10N2O2.Na/c9-6-2-1-5(3-8(11)12)7(10)4-6;/h1-2,4H,3,9-10H2,(H,11,12);/q;+1/p-1
